US08389720B2
1-[3-(4-Methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methanamine
To a solution of ethyl 4-(3-cyano-2,3,4,5-tetrahydrooxepin-3-yl)piperazine-1-carboxylate (320 mg, 1.146 mmole) in dry THF (5 ml) was added LAH (1.75 ml, 3.50 mmole) at 0° C. After 30 min the mixture was warmed to RT. After 16 hr the mixture was cooled to 0° C. and slowly quenched with 2M NaOH until gas evolution had ceased and a fine white precipitate formed. Anhydrous Na2SO4 was added and the mixture stirred for 15 min. The slurry was filtered through a pad of Celite washing with THF. The filtrate was concentrated to give the title compound as a clear oil (250 mg, 97%) which was used in the next step without purification. 1H-NMR (CDCl3, 500 MHz) d 6.23 (d, J=6.83 Hz, 1 H), 4.60 (m, 1 H), 4.11 (dd AB, J=12.46 and 58.83 Hz, 2 H), 2.77 (s, 2 H), 2.70 (m, 4 H), 2.43 (m, 4 H), 2.27 (s, 3 H), 2.13 (m, 4 H).

reactant | ethyl 4-(3-cyano-2,3,4,5-tetrahydrooxepin-3-yl)piperazine-1-carboxylate | 1.146 mmole, 320 mg | C(#N)C1(COC=CCC1)N1CCN(CC1)C(=O)OCC | C14H21N3O3
reactant | LAH | 3.50 mmole, 1.75 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[3-(4-Methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methanamine | 250 mg, 97% | CN1CCN(CC1)C1(COC=CCC1)CN | C12H23N3O
